US04239901
2.65 g (10 mmoles) of 2-[3-chloro-4-(4-aminopyrazol-1-yl)phenyl]propionic acid are dissolved in 10 ml of 25% strength hydrochloric acid, the solution is cooled to -3° C., and 1.04 g (15 mmoles) of sodium nitrite (dissolved in 5 ml of water) are added. After 10 minutes the reaction mixture is stirred into a solution of 2 g (20 mmoles) of copper(I) chloride. Heating to 100° C. ist then effected for 1 hour, followed by cooling, extraction with chloroform and purification through chromatography on silica gel (benzene/cyclohexane/glacial acetic acid 2:1:1). 2-[3-chloro-4-(4-chloropyrazol-1-yl)phenyl]propionic acid, m.p. 102°-103° C., is obtained.

reactant | 2-[3-chloro-4-(4-aminopyrazol-1-yl)phenyl]propionic acid | 10 mmoles, 2.65 g | ClC=1C=C(C=CC1N1N=CC(=C1)N)C(C(=O)O)C | C12H12ClN3O2
reactant | sodium nitrite | 15 mmoles, 5 ml, 1.04 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
catalyst | copper(I) chloride | 20 mmoles, 2 g | [Cu]Cl
product | 2-[3-chloro-4-(4-chloropyrazol-1-yl)phenyl]propionic acid | ClC=1C=C(C=CC1N1N=CC(=C1)Cl)C(C(=O)O)C | C12H10Cl2N2O2
